US05968688
2 g of 1,2,3,4-Tetrafluoroanthraquinone and 25 g of 2,6-diisopropylaniline were charged in a 50 cc, four necked flask and the reaction was carried out at 180° C. for about 6 hours. After completion of reaction, 2,6-diisopropylaniline was distilled out from the reaction solution and a column purification using a column with a silica gel was effected to give rise to 2.96 g of 2,3-bis(2,6-diisopropylanilino)-1,4-difluoroanthraquinone (Dye 24') (yield 69.7 mol %). The physical properties of Dye 24' and analytical values defining the compound are tabulated in Table 24.

reactant | 1,2,3,4-Tetrafluoroanthraquinone | 2 g | FC1=C(C(=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)F)F)F | C14H4F4O2
reactant | 2,6-diisopropylaniline | 25 g | C(C)(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
product | 2,3-bis(2,6-diisopropylanilino)-1,4-difluoroanthraquinone | 2.96 g | C(C)(C)C1=C(NC2=C(C=3C(C4=CC=CC=C4C(C3C(=C2NC2=C(C=CC=C2C(C)C)C(C)C)F)=O)=O)F)C(=CC=C1)C(C)C | C38H40F2N2O2
